US04144047
Preparation of 3-(α,α,α-Trifluoro-m-Tolyl)-4-Isothiazolecarboxylic Acid, 2,2,2-Trichloroethyl Ester.
A solution of 2.0 g (0.0069 mol) of 3-(α,α, α-trifluoro-m-tolyl-4-isothiazolecarbonyl chloride and 1.22 g (1.18 equivalents) of 2,2,2-trichloroethanol was heated at 70°-140° in an oil bath for 6.5 hours. The reaction mixture was concentrated under vacuum to give 1.78 g of oil, nD23 = 1.5499 (yield 63.8%).

reactant | α,α, α-trifluoro-m-tolyl-4-isothiazolecarbonyl chloride | FC(C1=CC(=CC=C1)C1=NSC=C1C(=O)Cl)(F)F | C11H5ClF3NOS
reactant | 2,2,2-trichloroethanol | 1.22 g, 1.18 equivalents | ClC(CO)(Cl)Cl | C2H3Cl3O
product | 3-(α,α,α-Trifluoro-m-Tolyl)-4-Isothiazolecarboxylic Acid, 2,2,2-Trichloroethyl Ester | 1.78 g | FC(C1=CC(=CC=C1)C1=NSC=C1C(=O)OCC(Cl)(Cl)Cl)(F)F | C13H7Cl3F3NO2S
